US07939533B2
(S)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide
A mixture of 0.20 g (0.38 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide, 0.23 g (2.3 mmol) L-prolinol and 0.15 g (1.1 mmol) potassium carbonate in 0.5 ml dimethyl sulfoxide was heated at 180° C. under microwave irradiation for 30 min. in a sealed tube. After cooling to room temperature the reaction mixture was diluted with water and extracted with three portions of tert-butyl methyl ether. The combined organic extracts were washed with water and brine, dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 0.18 g (78%) of the title compound as an off-white solid.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.38 mmol, 0.20 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)Cl)(C)C)(F)F | C25H20ClF7N2O
reactant | L-prolinol | 2.3 mmol, 0.23 g | N1[C@H](CO)CCC1 | C5H11NO
reactant | potassium carbonate | 1.1 mmol, 0.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 0.5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (S)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(2-hydroxymethyl-pyrrolidin-1-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.18 g, 78% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1[C@@H](CCC1)CO)(C)C)(F)F | C30H30F7N3O2
